US06660744B1
Cis-3-{4-[4-(aminomethyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.051 g, 0.0001 mol) was dissolved in anhydrous pyridine (1 mL), benzenesulfonyl chloride (0.018 g, 0.0001 mol) was added and the resulting solution was stirred at ambient temperature for twenty hours. The solvent was removed under reduced pressure and the resulting residue purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-N1-[4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzyl]-1-benzenesulfonamide acetate (0.042 g, 0.000048 mol) as a white solid.

reactant | Cis-3-{4-[4-(aminomethyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0001 mol, 0.051 g | NCC1=CC=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@@H]3CC[C@@H](CC3)N3CCN(CC3)C)C=C1 | C29H36N8O
reactant | benzenesulfonyl chloride | 0.0001 mol, 0.018 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | cis-N1-[4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzyl]-1-benzenesulfonamide acetate | 0.000048 mol, 0.042 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=CC=C(CNS(=O)(=O)C3=CC=CC=C3)C=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C35H40N8O3S.C2H4O2/c1-41-19-21-42(22-20-41)27-11-13-28(14-12-27)43-35-32(34(36)37-24-38-35)33(40-43)26-9-17-30(18-10-26)46-29-15-7-25(8-16-29)23-39-47(44,45)31-5-3-2-4-6-31;1-2(3)4/h2-10,15-18,24,27-28,39H,11-14,19-23H2,1H3,(H2,36,37,38);1H3,(H,3,4)/t27-,28+;
